Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Lipitor / Niacin Preparations / fenofibrate nanocrystallized / 
gemcitabine / lisinopril
 
Attending: ___.
 
Chief Complaint:
Right thigh wound
 
Major Surgical or Invasive Procedure:
Right thigh I&D and VAC placement (___)
Right thigh I&D, closure, and incisional VAC placement 
(___)
R hip ___ guided aspiration (___)

 
History of Present Illness:
This is a ___ year old male w/bladder CA (receiving BCG bladder 
infusions), THR ___ ago at ___ who presents with several months 
of persistent RLE wound. He was recently admitted in ___ 
with pan-negative cultures and negative workup. He presents 
today complaining of worsening wound which has now opened and is 
draining mucoid material. His PCP reports that ___ single outside 
culture has grown mycobacteria (?BCG) and has referred him for 
ID and orthopedic involvement.

 
Past Medical History:
- Bladder cancer, on active chemo
- Prostate cancer
- Atrial fibrillation on xarelto
- NIDDM 
- Hypertension
- Chronic renal insufficiency 
- Hyperlipidemia 
- GERD
- Cholecystectomy
- R-THR @ NEB ___ ago

 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission exam
In general, the patient is a well appearing male who is AOx3 and 
whose appearance is consistent with stated age.
Vitals: Temp:98.2 HR:89 BP:141/48 RR:17 Sat:99% RA

Right upper extremity:
Skin intact
Soft, non-tender arm and forearm
Full, painless AROM/PROM of shoulder, elbow, wrist, and digits
+EPL/FPL/DIO (index) fire
+SILT axillary/radial/median/ulnar nerve distributions
+Radial pulse

Left upper extremity:
Skin intact
Soft, non-tender arm and forearm
Full, painless AROM/PROM of shoulder, elbow, wrist, and digits
+EPL/FPL/DIO (index) fire
+SILT axillary/radial/median/ulnar nerve distributions
+Radial pulse

Right lower extremity:
6x2.5cm erythemetous fluctuant, tender, indurated region on 
lateral thigh inferior to trochanteric head. The wound has a 
slight tissue defect and is draining white, creamy mucoid 
non-foul smelling material that may be purulent in nature.
Otherwise soft, non-tender thigh and leg
Full, painless AROM/PROM of hip, knee, and ankle
___ fire
+SILT SPN/DPN/TN/saphenous/sural distributions
___ pulses, foot warm and well-perfused

Left lower extremity:
Skin intact
Soft, non-tender thigh and leg
Full, painless AROM/PROM of hip, knee, and ankle
___ fire
+SILT SPN/DPN/TN/saphenous/sural distributions
___ pulses, foot warm and well-perfused

Discharge exam:
AFVSS
Gen: NAD, A+Ox3
RLE:
Incision c/d/i
Motor intact ___, TA, GSC
SILT S/S/SP/DP/T
WWP toes, 2+ DP
Full ROM at R hip and knee
 
Pertinent Results:
___ 05:10AM BLOOD WBC-11.7* RBC-4.62 Hgb-13.0* Hct-40.1 
MCV-87 MCH-28.1 MCHC-32.5 RDW-15.2 Plt ___
___ 01:55PM BLOOD Neuts-74.3* Lymphs-13.5* Monos-9.3 
Eos-2.2 Baso-0.6
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD Glucose-156* UreaN-13 Creat-1.0 Na-132* 
K-4.5 Cl-100 HCO3-26 AnGap-11
___ 05:10AM BLOOD ALT-25 AST-28 AlkPhos-240*
___ 05:10AM BLOOD Calcium-8.4 Phos-3.1 Mg-1.2*
___ 01:55PM BLOOD CRP-53.2*
___ 12:45PM BLOOD HIV Ab-NEGATIVE

___ 12:45PM BLOOD HCV Ab-NEGATIVE
___ 02:02PM BLOOD Lactate-1.6
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a recurent right thigh wound and was admitted to the 
orthopedic surgery service.  The patient was taken to the 
operating room on ___ for I&D and VAC placement, which the 
patient tolerated well (for full details please see the 
separately dictated operative report). The patient was taken 
from the OR to the PACU in stable condition and after recovery 
from anesthesia was transferred to the floor.  The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was started on IV antibiotics per Infection Disease 
service recommendations.  

The patient was taken to the operating room on ___ for 
repeat I&D, wound closure, and incisional VAC placement, which 
the patient tolerated well (for full details please see the 
separately dictated operative report). The patient was taken 
from the OR to the PACU in stable condition and after recovery 
from anesthesia was transferred to the floor.  The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was continued on his antibiotics until ___ at which 
time Infectious Disease Service recommended stopping antibioics 
and obtaining a R hip aspiration to evaluate for septic 
arthritis. Gram stain of the hip aspiration fluid showed no 
leukocytes and no microorganisms. Preliminary culture results 
showed no growth to date. 
  
The patient's home medications, including Xarelto, were 
continued throughout this hospitalization.  The patient worked 
with ___ who determined that discharge to rehab was appropriate. 
The ___ hospital course was otherwise unremarkable. His 
incisional VAC was dicontinued at the time of his discharge. 

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is weight bearing as tolerated in the 
right lower extremity, and will be discharged on his home 
xarelto for DVT prophylaxis.  The patient will follow up in two 
weeks per routine. A thorough discussion was had with the 
patient regarding the diagnosis and expected post-discharge 
course, and all questions were answered prior to discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4-6H:PRN pain 

2. Fluoxetine 20 mg PO DAILY 
3. Rivaroxaban 15 mg PO DAILY 
4. Ondansetron 8 mg PO Q8H:PRN nausea 
5. Docusate Sodium 100 mg PO BID 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. Sodium Bicarbonate 1300 mg PO THE NIGHT BEFORE AND THE 
MORNING AFTER CHEMOTHERAPY 
10. Oxybutynin 5 mg PO HS 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Fluoxetine 20 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Rivaroxaban 15 mg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 
7. Acetaminophen 650 mg PO Q6H:PRN Pain 
8. Ondansetron 8 mg PO Q8H:PRN nausea 
9. Oxybutynin 5 mg PO HS 
10. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4-6H:PRN 
pain 
11. Sodium Bicarbonate 1300 mg PO THE NIGHT BEFORE AND THE 
MORNING AFTER CHEMOTHERAPY 
12. MetFORMIN (Glucophage) 500 mg PO BID 
13. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin
14. Nystatin Oral Suspension 5 mL PO QID 
15. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*80 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right thigh wound

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please continue taking your home dose of Xarelto to prevent 
the formation of blood clots. 

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.

ACTIVITY AND WEIGHT BEARING:
- Weight bearing as tolerated in right leg

Physical Therapy:
WBAT in RLE
ROMAT in R hip and knee
Treatments Frequency:
Please change dressings daily as needed for drainage.
Sutures will be removed at follow up clinic visit in 2 weeks.
 
Followup Instructions:
___